US08304419B2
To a solution of methyl 4-(aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylate (0.04 g, 0.197 mmol) in THF (3 mL) and water (1 mL) was added lithium hydroxide (0.047 g, 1.974 mmol). The reaction mixture was stirred overnight at 35° C. The solvent was evaporated and the resulting solid placed under high vacuum. To the intermediate mixture was added DMF (1 mL), DIPEA (0.052 ml, 0.296 mmol), HATU (0.090 g, 0.237 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.061 g, 0.197 mmol). The solution was stirred for 1 h at RT. Purification was accomplished by HPLC. The desired fractions were neutralized with saturated sodium bicarbonate, extracted with EtOAc (3×5 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated to afford 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2,4-dicarboxamide (0.020 g, 21% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.18 (br. s., 1H) 8.15 (t, 1H) 7.83 (d, 1H) 7.46-7.56 (m, 4H) 7.37 (t, 1H) 7.30 (br. s., 1H) 7.05 (br. s., 1H) 4.57 (d, 2H). MS: m/z 481.0 (M+1).

reactant | methyl 4-(aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylate | 0.197 mmol, 0.04 g | NC(=O)C=1C(=C(NC1)C(=O)OC)Cl | C7H7ClN2O3
reactant | lithium hydroxide | 1.974 mmol, 0.047 g | [OH-].[Li+]
reactant | DIPEA | 0.296 mmol, 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.237 mmol, 0.090 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.197 mmol, 0.061 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2,4-dicarboxamide | 0.020 g, 21% yield | ClC1=C(NC=C1C(=O)N)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C20H12Cl3FN4O3
